US09062070B2
Step C: 6-fluoro-2-methoxy-3-(oxiran-2-yl)benzonitrile
3-Ethenyl-6-fluoro-2-methoxybenzonitrile (1.67 g, 9.43 mmol) was added to DCM (50 mL) at 0° C. then mCPBA (4.88 g, 28.3 mmol) was added and the reaction mixture was stirred at RT for 16 h. The reaction mixture was washed with saturated aqueous Na2S2O3, then with 1N NaOH followed by brine. The organic layer was separated and dried over Na2SO4, filtered, and evaporated to dryness. The crude product was purified by chromatography through a 120 g Redi-sep column and eluting with a 0-100% EtOAc/hexane solvent system. Isolated 6-fluoro-2-methoxy-3-(oxiran-2-yl)benzonitrile.

reactant | 3-Ethenyl-6-fluoro-2-methoxybenzonitrile | 9.43 mmol, 1.67 g | C(=C)C=1C(=C(C#N)C(=CC1)F)OC | C10H8FNO
reactant | mCPBA | 28.3 mmol, 4.88 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-2-methoxy-3-(oxiran-2-yl)benzonitrile | FC1=CC=C(C(=C1C#N)OC)C1OC1 | C10H8FNO2
